data/oMe_Silver.jsonl
{"reaction_id": "NR-049_1-CC_2-C_3-CC_4-CCCC(C)C","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(CC)C(C)S(CC)","O=C(CC)(CCCC(C)C)"],"products_smiles": ["S(CC)C(C)(C(O)(CC)(CCCC(C)C))S(CC)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CC)[C-](C)S(CC)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(CC)C(C)(C([O-])(CC)(CCCC(C)C))S(CC)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CC)C(C)(C(O)(CC)(CCCC(C)C))S(CC)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
{"reaction_id": "NR-101_1-c3ccccc3_2-c3ccc(C)cc3","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(c3ccccc3)(c3ccc(C)cc3)","BrBr"],"products_smiles": ["C(Br)CC(c3ccccc3)(c3ccc(C)cc3)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(c3ccccc3)(c3ccc(C)cc3)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(c3ccccc3)(c3ccc(C)cc3)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(c3ccccc3)(c3ccc(C)cc3)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
